US06127375
Preparation of (+/-)-4-Cyclopropylethynyl-5,6-difluoro-4-trifluoromethyl-3,4-dihydro-2(1H)-quinazolinthione
A solution of (+/-)-4-cyclopropylethynyl-5,6-difluoro-4-trifluoromethyl-3,4-dihydro-2(1H)-quinazolinone (0.32 g, 1.0 mmol) in phosphorous oxychloride (5 mL) containing Na2CO3 (160 mg, 1.5 mmol) was heated at 95° C. overnight. After cooling to room temperature, the phosphorus oxychloride was removed under reduced pressure. The residue was dissolved in ethanol (5 mL) and thiourea (0.44 g, 5.7 mmol) was added. The resulting mixture was heated at reflux for 24 hours, cooled to room temperature and concentrated. The material was dissolved in EtOAc (75 mL) and washed sequentially with saturated aqueous NaHCO3 (50 mL) and saturated aqueous NaCl (50 mL). The organic extract was dried over MgSO4, filtered and concentrated. The crude material was purified by flash chromatography (38% EtOAc/hexanes) to afford the title compound as a white solid (142 mg, 43%): mp 241-243° C.; 1H NMR (300 MHz, acetone-d6) δ 7.52-7.43 (m, 1H), 7.06-7.03 (m, 1H), 1.43-1.40 (m, 1H), 0.89-0.86 (m, 2H), 0.79-0.74 (m, 2H); 19F NMR (282 MHz, acetone-d6) δ -83, -136, -145; Analysis calc'd for C14H9F5N2S: C, 50.60; H, 2.73; N, 8.43; found: C, 50.46; H, 2.78; N, 8.31.

reactant | (+/-)-4-cyclopropylethynyl-5,6-difluoro-4-trifluoromethyl-3,4-dihydro-2(1H)-quinazolinone | 1.0 mmol, 0.32 g | C1(CC1)C#CC1(NC(NC2=CC=C(C(=C12)F)F)=O)C(F)(F)F | C14H9F5N2O
reactant | Na2CO3 | 1.5 mmol, 160 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | thiourea | 5.7 mmol, 0.44 g | NC(=S)N | CH4N2S
solvent | phosphorous oxychloride | 5 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | (+/-)-4-Cyclopropylethynyl-5,6-difluoro-4-trifluoromethyl-3,4-dihydro-2(1H)-quinazolinthione | 142 mg, 43% | C1(CC1)C#CC1(NC(NC2=CC=C(C(=C12)F)F)=S)C(F)(F)F | C14H9F5N2S
